* preamp_float_tt_1.62_-20_-1
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/adc/adc_blocks.spice
.temp -20
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear klu
.include /repo/v2/analog/adc/adc_preamp.spice
.include /repo/v2/analog/adc/adc_analog12_bottom_preamp.spice
VDD vdd 0 1.62
VCM cm 0 0.81
VRP srp 0 1.1
VRN srn 0 .7
RRP srp rp 1
RRN srn rn 1
CEXTP rp 0 10n
CEXTN rn 0 10n
VIP sp 0 0.8099755859375
VIN sn 0 0.8100244140625
RSP sp ip 350
RSN sn inn 350
VSAMP sample 0 PWL(0 1.62 2.49u 1.62 2.491u 0)
VSAMPB sampleb 0 PWL(0 0 2.49u 0 2.491u 1.62)
VACQ acq 0 PWL(0 1.62 2.5u 1.62 2.501u 0)
VCONV conv 0 PWL(0 0 2.52u 0 2.521u 1.62)
VEVAL ev 0 PULSE(0 1.62 2.825u 1n 1n 250n 625n)
XADC ip inn q qb sample sampleb acq conv ev vdd 0 0 0 0 0 0 0 0 0 0 0 rp rn cm vdd 0 adc_analog12_bottom_preamp
CQ q 0 5f
CQB qb 0 5f
.ic V(q)=0 V(qb)=1.62
.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 2n 3.2u
wrdata /repo/v2/analog/adc/results/preamp_float_tt_1.62_-20_-1.tsv v(xadc.tn) v(xadc.tp) v(xadc.prep) v(xadc.pren) v(q) v(qb) v(ev) i(vdd)
quit
.endc
.end
